US07846960B2
{4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-carbamic Acid Tert-butyl Ester
Sodium hydride (60% in mineral oil, 183 mg, 4.58 mmol) is added to a solution of {4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-carbamic acid tert-butyl ester (1.92 g, 3.81 mmol) and DMF (15 mL) in an ice bath. The mixture is stirred for 30 minutes and iodomethane (0.36 mL, 5.7 mmol) is added. The bath is removed and the mixture is stirred for 1 h and quenched with a mixture if ice and ammonium chloride. The mixture is diluted with ethyl acetate and water. The organic layer is washed with brine and dried over MgSO4 to provide 1.94 g (98%) of the title compound as an oil. LC-ES/MS m/e 518.2 (M+1).

reactant | Sodium hydride | 4.58 mmol, 183 mg | [H-].[Na+]
reactant | {4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-carbamic acid tert-butyl ester | 3.81 mmol, 1.92 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OCC=1N(N=CC1C1CC1)C1=C(C=CC=C1)OC(F)(F)F)C)=O | C26H28F3N3O4
reactant | iodomethane | 5.7 mmol, 0.36 mL | IC | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | {4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-carbamic Acid Tert-butyl Ester | 1.94 g, 98% | C(C)(C)(C)OC(N(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C1CC1)C1=C(C=CC=C1)OC(F)(F)F)C)=O | C27H30F3N3O4
